US08314100B2
1-[(2-Methoxy-6-methylquinoxalin-3-yl)aminocarbonyl]-4-(3-methoxyphenyl)piperazine (Compound 45)
Ethyl N-(2-methoxy-6-methylquinoxalin-3-yl)carbamate and 1-(3-methoxyphenyl)piperazine were reacted by the same way with the example 43 to obtain the titled compound (yield, 73%). 1H NMR (300 MHz, CDCl3): δ 2.43-2.48 (m, 3H), 3.23-3.30 (m, 4H), 3.76-3.87 (m, 3H), 4.04-4.13 (m, 4H), 6.45-6.50 (m, 2H), 6.57 (d, J=8.4 Hz, 1H), 7.01-7.12 (m, 1H), 7.17-7.33 (m, 3H), 7.48-7.65 (m, 2H).

reactant | Ethyl N-(2-methoxy-6-methylquinoxalin-3-yl)carbamate | COC1=NC2=CC=C(C=C2N=C1NC(OCC)=O)C | C13H15N3O3
reactant | 1-(3-methoxyphenyl)piperazine | COC=1C=C(C=CC1)N1CCNCC1 | C11H16N2O
product | 1-[(2-Methoxy-6-methylquinoxalin-3-yl)aminocarbonyl]-4-(3-methoxyphenyl)piperazine | 73% | COC1=NC2=CC=C(C=C2N=C1NC(=O)N1CCN(CC1)C1=CC(=CC=C1)OC)C | C22H25N5O3
